US07459263B2
First, ethyl 1-naphthylpropiolate was prepared. A mixture of 1-ethynylnaphthalene (7.7 g, 50.6 mmol), 4-(dimethylamino)pyridine (0.06 g, 0.5 mmol), 1,2,2,6,6-pentamethylpiperidine (8.8 g, 55.7 mmol), and acetonitrile (120 mL) was sparged with nitrogen for 10 min, and then tetrakis(triphenylphosphine)palladium(0) (1.3 g, 1.1 mmol) was added. The mixture was sparged with nitrogen for 10 min, heated to reflux, treated dropwise with ethyl chloroformate (12.1 g, 111.3 mmol), and held at reflux for 2 h. The reaction mixture was cooled to ambient and diluted with ligroin. The solution was washed three times with water and then with brine, dried (Na2SO4), and concentrated to deposit a brown oil. The crude product was purified by column chromatography to provide 4.0 g (36% of theory) of ethyl 1-naphthylpropiolate. 1H NMR (CDCl3): δ 1.40 (t, 3H), 4.33 (q, 2H), 7.50 (m, 3H), 7.90 (m, 3H), 8.30 (d, 1H).

reactant | 1-ethynylnaphthalene | 50.6 mmol, 7.7 g | C(#C)C1=CC=CC2=CC=CC=C12 | C12H8
reactant | 1,2,2,6,6-pentamethylpiperidine | 55.7 mmol, 8.8 g | CN1C(CCCC1(C)C)(C)C | C10H21N
reactant | ethyl chloroformate | 111.3 mmol, 12.1 g | ClC(=O)OCC | C3H5ClO2
catalyst | 4-(dimethylamino)pyridine | 0.5 mmol, 0.06 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.1 mmol, 1.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | ethyl 1-naphthylpropiolate | 4.0 g, 36% | C1(=CC=CC2=CC=CC=C12)C#CC(=O)OCC | C15H12O2
